US07488737B2
N-(2-Cyclopropylmethyl-2-azabicyclo[2.2.1]hept-5-yl)-1H-indazole-3-carboxamide hydroformate
To the suspension of N-(2-azabicyclo[2.2.1]hept-5-yl)-1H-indazole-3-carboxamide hydrochloride (0.36 mmol), cyclopropylcarboxaldehyde (0.9 mmol), and N,N-diisopropylethylamine (1.08 mmol), acetic acid (0.43 mmol) was added sodium triacetoxyborohydride (0.61 mmol). The reaction mixture was maintained at rt for 2 h and was poured into water, extracted with 95/5 dichloromethane/methanol (2×30 mL), and the combined extracts were concentrated. The residue was purified by preparative HPLC, thus providing the product in 50% yield. 1H NMR (CD3OD) δ 8.21 (m, 1 H), 7.59 (m, 1 H), 7.45 (m, 1 H), 7.26 (m, 1 H), 4.15 (m, 1 H), 3.83 (m, 1 H), 3.10 (m, 3 H), 2.02 (m, 4 H), 1.37 (m, 2 H), 0.74 (m, 2 H), 0.48 (m, 2 H); LC/MS (EI) tR 2.72 min, m/z 311 (M++1).

reactant | N-(2-azabicyclo[2.2.1]hept-5-yl)-1H-indazole-3-carboxamide hydrochloride | 0.36 mmol | Cl.C12NCC(C(C1)NC(=O)C1=NNC3=CC=CC=C13)C2
reactant | cyclopropylcarboxaldehyde | 0.9 mmol | C1CC1C(C#N)O | C5H7NO
reactant | N,N-diisopropylethylamine | 1.08 mmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetic acid | 0.43 mmol | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.61 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | water | O | H2O
product | N-(2-Cyclopropylmethyl-2-azabicyclo[2.2.1]hept-5-yl)-1H-indazole-3-carboxamide | 50% yield | C1(CC1)CN1C2CC(C(C1)C2)NC(=O)C2=NNC1=CC=CC=C21 | C18H22N4O
